US07091215B2
After dissolving tert-butyl N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate (400 mg) in N,N-dimethylformamide (5 mL), sodium hydride (60%, 58 mg) was added while cooling on ice, and then (bromomethyl)cyclopropane (111 μL) was added and the mixture was stirred for 1 hour at 40° C. Water was added to the reaction mixture, extraction was performed with ethyl acetate and the extract was washed with brine. After drying the obtained organic layer over anhydrous magnesium sulfate and filtering it, the solvent was concentrated under reduced pressure to obtain crude tert-butyl N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate. This was dissolved in ethyl acetate (10 mL) without purification, a 4 N hydrochloric acid/ethyl acetate solution (20 mL) was added, and the mixture was stirred at 40° C. for 1 hour. The reaction mixture was neutralized with 5 N aqueous sodium hydroxide while cooling on ice, and then extraction was performed with ethyl acetate and the organic layer was washed with brine. After drying over anhydrous magnesium sulfate and filtration, the solvent was distilled off under reduced pressure to obtain the title compound (368 mg) as a yellow oil.

reactant | tert-butyl N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | 400 mg | COC1=C(C(=CC(=C1)C)C)C1=CC=CC=2N1N=C(C2NC(OC(C)(C)C)=O)SC | C22H27N3O3S
reactant | sodium hydride | 58 mg | [H-].[Na+]
reactant | (bromomethyl)cyclopropane | 111 μL | BrCC1CC1 | C4H7Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-cyclopropylmethyl-N-[7-(2-methoxy-4,6-dimethylphenyl)-2-(methylsulfanyl)pyrazolo[1,5-a]pyridin-3-yl]carbamate | C1(CC1)CN(C(OC(C)(C)C)=O)C=1C(=NN2C1C=CC=C2C2=C(C=C(C=C2C)C)OC)SC | C26H33N3O3S
